US07268159B2
1-(4-Nitro-benzyl)-1H-indole-3-carboxylic acid methyl ester (I13220-11) was prepared from 1H-indole-3-carboxylic acid methyl ester and 4-nitrobenzyl bromide followed the procedure of Example 3 Step 1 as a yellow powder: 1H NMR (DMSO-d6) δ 3.83 (s, 3H), 5.70 (s, 2H), 7.23 (ddd, J=9.9, 4.6, 0.8 Hz, 2H), 7.47 (d, J=8.8 Hz, 2H), 7.50 (ddd, J=9.9, 4.6, 0.8 Hz, 1H), 8.05 (ddd, J=9.9, 4.6, 0.8 Hz, 1H), 8.19 (d, J=8.8 Hz, 2H), 8.40 (s, 1H); MS (ESI) m/z 311 (MH+), 309 ([M−H]−).

reactant | 1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 1-(4-Nitro-benzyl)-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
